US07452911B2
3.72e (1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-yl)-4-methylpiperidine
48 mg (0.22 mmol) NaBH(OAc)3 and 27 μL (0.47 mmol) acetic acid are added to a solution of 100 mg (0.19 mmol, 70% purity) 1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-one and 22 μL 4-methylpiperidine (0.19 mmol) in 5 mL THF. The reaction mixture is stirred overnight and combined with saturated NaHCO3 solution. The organic phase is extracted twice with EtOAc. The organic phase is dried over MgSO4 and the solvent is eliminated i.vac. Further purification is carried out by column chromatography using HPLC-MS.

reactant | NaBH(OAc)3 | 0.22 mmol, 48 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 0.47 mmol, 27 μL | C(C)(=O)O | C2H4O2
reactant | 1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-one | 0.19 mmol, 100 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1CC(CC1)=O | C22H16ClN3O
reactant | 4-methylpiperidine | 0.19 mmol, 22 μL | CC1CCNCC1 | C6H13N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-pyrrolidin-3-yl)-4-methylpiperidine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1CC(CC1)N1CCC(CC1)C | C28H29ClN4
